US07365088B2
(ii) 3-(1-Isopropyl-piperidin-4-ylcarbamoyl)-1H-indazole-5-carboxylic acid methyl ester
To a solution of 1 g 1H-Indazole-3,5-dicarboxylic acid 5-methyl ester in 8 mL DCM, 2.5 mL NEt3, 1.15 g BOP-Cl and 0.98 g 1-Isopropyl-piperidin-4-ylamine hydrochloride were added at RT. The mixture was stirred for 3 h. After addition of 20 mL of water the reaction mixture was extracted with DCM (3×50 mL). The combined organic layers were dried over MgSO4. After removal of the solvent under reduced pressure the crude product was used without further purification.

reactant | 1H-Indazole-3,5-dicarboxylic acid 5-methyl ester | 1 g | COC(=O)C=1C=C2C(=NNC2=CC1)C(=O)O | C10H8N2O4
reactant | BOP-Cl | 1.15 g | C1COC(=O)N1P(=O)(N2CCOC2=O)Cl | C6H8ClN2O5P
reactant | 1-Isopropyl-piperidin-4-ylamine hydrochloride | 0.98 g | Cl.C(C)(C)N1CCC(CC1)N
reactant | water | 20 mL | O | H2O
solvent | DCM | 8 mL | C(Cl)Cl | CH2Cl2
solvent | NEt3 | 2.5 mL | CCN(CC)CC | C6H15N
product | 3-(1-Isopropyl-piperidin-4-ylcarbamoyl)-1H-indazole-5-carboxylic acid methyl ester | COC(=O)C=1C=C2C(=NNC2=CC1)C(NC1CCN(CC1)C(C)C)=O | C18H24N4O3
